US07842685B2
Triethylamine (0.32 mL, 2.28 mmol), 1,3-(bis[diphenylphosphino]propane) dichloropalladium(II) (0.051 g, 0.076 mmol), and 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-bromobenzo[d]thiazole (0.75 g, 1.90 mmol) were mixed in DMF:THF:MeOH (2:7:2, 11 mL total volume) in a heavy-walled pressure tube. The tube was placed under CO atmosphere (20 psi) and then heated to 95° C. for 16 h. The mixture was cooled to RT and EtOAc (5 mL) was added. The suspension was filtered and the collected solid was washed with EtOAc. The solid obtained was then partitioned between DCM and water, the layers were separated, and the organic layer was dried (MgSO4) and concentrated under vacuum to give methyl 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)benzo[d]thiazole-6-carboxylate as a white solid.

reactant | Triethylamine | 2.28 mmol, 0.32 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-bromobenzo[d]thiazole | 1.90 mmol, 0.75 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=C(N1)C=CC(=C2)Br)F | C17H13BrFNO2S
reactant | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | DMF THF MeOH | 11 mL | CN(C)C=O.C1CCOC1.CO
product | methyl 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)benzo[d]thiazole-6-carboxylate | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=C(N1)C=CC(=C2)C(=O)OC)F | C19H16FNO4S
